US08835432B2
A mixture of (S)-1-(7-fluoro-2-(pyridin-2-yl)quinolin-3-yl)ethanamine (85 mg, 0.32 mmol), 4,6-dichloro-5-cyanopyrimidine (55 mg, 0.32 mmol, 1.0 eq) and N, N-diisopropylethylamine (68 μl, 0.38 mmol, 1.2 eq) in THF (3 mL) was stirred at rt for 30 min before heating to 50° C. After 4 h, the mixture was concentrated and purified by column chromatography (EtOAc/1/1) to give a white solid, which was treated with saturated NH3 in dioxane (3 mL) in sealed tube at 110° C. overnight. The reaction mixture was concentrated and purified by reverse phase HPLC (MeCN/H2O/0.1% TFA) and lyophilized to give a white powder 4-amino-6-((S)-1-(7-fluoro-2-(pyridin-2-yl)quinolin-3-yl)ethylamino)pyrimidine-5-carbonitrile (19 mg, 15%). 1H NMR (500 MHz, CD3OD) δ ppm 1.78 (d, J=6.85 Hz, 3H) 5.82 (q, J=6.85 Hz, 1H) 7.71 (td, J=8.80, 2.45 Hz, 1H) 7.89 (dd, J=9.66, 2.32 Hz, 1H) 8.10 (ddd, J=7.83, 5.62, 0.98 Hz, 1H) 8.19 (s, 1H) 8.27 (dd, J=9.05, 5.87 Hz, 1H) 8.45 (d, J=7.83 Hz, 1H) 8.63 (td, J=7.95, 1.47 Hz, 1H) 8.94 (s, 1H) 9.03-9.09 (m, 1H). Mass Spectrum (ESI) m/e=386 (M+1).

reactant | (S)-1-(7-fluoro-2-(pyridin-2-yl)quinolin-3-yl)ethanamine | 0.32 mmol, 85 mg | FC1=CC=C2C=C(C(=NC2=C1)C1=NC=CC=C1)[C@H](C)N | C16H14FN3
reactant | 4,6-dichloro-5-cyanopyrimidine | 0.32 mmol, 55 mg, 1.0 eq | ClC1=NC=NC(=C1C#N)Cl | C5HCl2N3
reactant | N, N-diisopropylethylamine | 0.38 mmol, 68 μl, 1.2 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NH3 | N | H3N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-amino-6-((S)-1-(7-fluoro-2-(pyridin-2-yl)quinolin-3-yl)ethylamino)pyrimidine-5-carbonitrile | 19 mg, 15% | NC1=NC=NC(=C1C#N)N[C@@H](C)C=1C(=NC2=CC(=CC=C2C1)F)C1=NC=CC=C1 | C21H16FN7
